US08580803B2
Synthesis of (4-((3-(aminomethyl)phenyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone
To a mixture of tert-butyl(3-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzyl)carbamate (30 mg, 0.068 mmol) in dioxane (0.5 mL) was added 0.5 mL of 4 M HCl in dioxane. The mixture was heated at 50° C. for 1 hour. The solvent was removed under reduced pressure. The residue was washed with DCM and dried on high vacuum to give an off-white solid. M.p.=210-212° C.; 400 MHz 1HNMR (DMSO-d6) δ 13.19 (s, 1H), 11.44 (s, 1H), 8.48 (s, 1H), 8.11 (d, J=8.4 Hz, 2H), 7.98 (s, 1H), 7.87-7.84 (m, 3H), 7.69 (t, J=6.4 Hz, 2H), 7.56 (t, J=7.6 Hz, 2H), 7.46 (t, J=7.6 Hz, 1H), 7.22 (d, J=7.6 Hz, 1H), 5.44 (s, 2H), 4.06 (d, J=6.4 Hz, 2H); LCMS [M+H] 344.

reactant | tert-butyl(3-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzyl)carbamate | 0.068 mmol, 30 mg | C(C)(C)(C)OC(NCC1=CC(=CC=C1)NC=1C2=C(N=CN1)NC=C2C(C2=CC=CC=C2)=O)=O | C25H25N5O3
reactant | HCl | 4 M, 0.5 mL | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (4-((3-(aminomethyl)phenyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone | NCC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C(=O)C2=CC=CC=C2 | C20H17N5O
